US06858615B2
Using general procedure Z, 4-[4-(2{t-butoxycarbonylamino}ethyloxy)phenyl]butylamine was converted into 4-[4-(2-{t-butoxycarbonylamino}ethyloxy)phenyl)]butylamidino-3,5-diamino-6-chloropyrazinecarboxamide, m.p. 118° C., APCI MS M/Z=521[C23H33ClN8O4+H]+, which was hydrolyzed and acidified with HCL to give 4-[4-(2-aminoethyloxy)pheny)butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride, m.p. >178° C. (dec), M/Z=421 [C18H25ClN8O2].

reactant | 4-[4-(2{t-butoxycarbonylamino}ethyloxy)phenyl]butylamine | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CCCCN | C17H28N2O3
reactant | butylamidino-3,5-diamino-6-chloropyrazinecarboxamide | C(CCC)NC(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl | C10H16ClN7O
product | 4-[4-(2-aminoethyloxy)pheny)butylamidino-3,5-diamino-6-chloropyrazinecarboxamide hydrochloride | Cl.NCCOC1=CC=C(C=C1)CCCCNC(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl | InChI=1S/C18H25ClN8O2.ClH/c19-14-16(22)26-15(21)13(25-14)17(28)27-18(23)24-9-2-1-3-11-4-6-12(7-5-11)29-10-8-20;/h4-7H,1-3,8-10,20H2,(H4,21,22,26)(H3,23,24,27,28);1H
